US04151294
8.34 g. of lithium is added at -70°, over three hours, to 900 ml. of liquid ammonia containing 82 g. of 1-hexyne. When the blue color has disappeared, 214 g. of 4'-fluoro-4-acetylbiphenylyl in 200 ml. of ether are added thereto over one hour. The solution contains lithium 2-(4'-fluoro-4-biphenylyl)-3-octyn-2-olate. Subsequently, the ammonia is allowed to evaporate at +25° and simultaneously ether is added at a rate such that the volume of the mixture remains constant. After removal of ammonia, the mixture is allowed to stand for 12 hours at 20°. Thereafter, it is hydrolyzed with 150 ml. water and worked up as usual, to give 2-(4'-fluoro-4-biphenylyl)-3-octyn-2-ol; m.p. 62°.

reactant | lithium | [Li] | Li
reactant | ammonia | 82 g | N | H3N
reactant | 1-hexyne | C#CCCCC | C6H10
reactant | lithium 2-(4'-fluoro-4-biphenylyl)-3-octyn-2-olate | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C#CCCCC)[O-].[Li+]
solvent | ether | CCOCC | C4H10O
product | 2-(4'-fluoro-4-biphenylyl)-3-octyn-2-ol | FC1=CC=C(C=C1)C1=CC=C(C=C1)C(C)(C#CCCCC)O | C20H21FO
